US05484801
Alternate preparation of (5S)-2-(t-Butyloxycarbonylamino)-5-(N,N-dibenzylamino)-1,6-diphenyl-4-oxo-2-hexene
A suspension of (S)-2-amino-5-(N,N-dibenzylamino)-1,6-diphenyl-4-oxo-2-hexene (100.0 g, 0.217 mol) in 15% ethyl acetate/hexanes (2 liters) under N2 was warmed to about 40° C. The resulting solution was cooled to room temperature before adding 4.0 g (33 mmol) of N,N-dimethyl-4-aminopyridine and 49.7 g (0.228 mol) of di-tert-butyl dicarbonate. The reaction mixture was allowed to stir overnight at room temperature. (After approximately one hour, a white precipitate began to form.) The suspension was filtered and the precipitate was washed with hexanes to afford the desired product as colorless crystals. TLC: 25% ethyl acetate/hexanes Rf 0.38.

reactant | (S)-2-amino-5-(N,N-dibenzylamino)-1,6-diphenyl-4-oxo-2-hexene | 0.217 mol, 100.0 g | NC(CC1=CC=CC=C1)=CC([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C32H32N2O
reactant | di-tert-butyl dicarbonate | 0.228 mol, 49.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethyl-4-aminopyridine | 33 mmol, 4.0 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | (5S)-2-(t-Butyloxycarbonylamino)-5-(N,N-dibenzylamino)-1,6-diphenyl-4-oxo-2-hexene | C(C)(C)(C)OC(=O)NC(CC1=CC=CC=C1)=CC([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C37H40N2O3
